US09061030B2
A suspension of thiazole-2-carbohydrazide (4.2 mmol), ethyl 2-amino-2-thioxoacetate (1 equiv) and ammonium chloride (6 equiv) in ethanol (150 mL) was placed in a sealed tube and this was warmed to 110° C. and stirred at that temperature for 11 days. The reaction solution was cooled to rt and conc. Brine was added and the mixture was adjusted to pH-6 and extracted with EtOAc. The organic phases were dried over Na2SO4, filtered and conc. The crude product was purified using SiO2 chromatography and an appropriate solvent gradient (CH3CN/MeOH/CH2Cl2) to give ethyl 3-(thiazol-2-yl)-1H-1,2,4-triazole-5-carboxylate as an off-white solid (Intermediate-2, 37% yield).

reactant | thiazole-2-carbohydrazide | 4.2 mmol | S1C(=NC=C1)C(=O)NN | C4H5N3OS
reactant | ethyl 2-amino-2-thioxoacetate | 1 equiv | NC(C(=O)OCC)=S | C4H7NO2S
reactant | ammonium chloride | 6 equiv | [Cl-].[NH4+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | Brine | [Cl-].[Na+].O
product | ethyl 3-(thiazol-2-yl)-1H-1,2,4-triazole-5-carboxylate | 37% yield | S1C(=NC=C1)C1=NNC(=N1)C(=O)OCC | C8H8N4O2S
